US05114939
N-Ethyl-N-(2-phenylethyl)-4-quinolinamine
To a suspension of 0.59 g of lithium aluminum hydride in 100 mL of dry ether was added, dropwise, a solution of 2.3 g of N-(2-phenylethyl)-N-(4-quinolinyl)acetamide dissolved in 50 mL of dry ether. The mixture was heated to reflux for seven hours. Excess lithium aluminum hydride was then destroyed by adding 100 mL of water to the mixture. The solvent was then removed, and the residue was dissolved in chloroform. After washing with water, the mixture was then dried and concentrated. Using HPLC (silica gel, CH2Cl2 →EtOAc), 0.80 g of the title product was isolated. Yield 36.7%. M.P. oil.

reactant | lithium aluminum hydride | 0.59 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(2-phenylethyl)-N-(4-quinolinyl)acetamide | 2.3 g | C1(=CC=CC=C1)CCN(C(C)=O)C1=CC=NC2=CC=CC=C12 | C19H18N2O
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | N-Ethyl-N-(2-phenylethyl)-4-quinolinamine | 0.80 g, Yield 36.7% | C(C)N(C1=CC=NC2=CC=CC=C12)CCC1=CC=CC=C1 | C19H20N2
